US04414216
A mixture of 9.2 g of trans-2-(4-fluorophenyl)-4-(tosyloxymethyl)tetrahydrofuran and 12.6 g of sodium iodide in 130 ml of acetone is heated under reflux for 6 hours. The solvent is then distilled off under reduced pressure, and the residue is extracted with ether. The extract is washed with water and dried over magnesium sulfate, and the solvent is distilled off to give a quantitative yield of trans-2-(4-fluorophenyl)-4-(iodomethyl)tetrahydrofuran as colorless oil, nD27 1.5675.

reactant | trans-2-(4-fluorophenyl)-4-(tosyloxymethyl)tetrahydrofuran | 9.2 g | FC1=CC=C(C=C1)[C@@H]1OC[C@H](C1)COS(=O)(=O)C1=CC=C(C)C=C1 | C18H19FO4S
reactant | sodium iodide | 12.6 g | [I-].[Na+]
solvent | acetone | 130 ml | CC(=O)C | C3H6O
product | trans-2-(4-fluorophenyl)-4-(iodomethyl)tetrahydrofuran | quantitative yield | FC1=CC=C(C=C1)[C@@H]1OC[C@H](C1)CI | C11H12FIO
